US06884801B1
To a solution of 2-nitro-4-chlorobenzaldehyde (2.2 g, 11.8 mmol) and p-toluenesulfonyl-methylisocyanide (2.8 g, 14.2 mmol) in methanol (50 mL) was added potassium carbonate (8.2 g, 59 mmol) solid. The heterogeneous mixture was heated to reflux for 2.5 hours. Upon moving to room temperature, the reaction was filtered and concentrated in vacuo. The residue was dissolved in 0.1N sodium hydroxide and extracted with methylene chloride two times. The combined organics were dried over sodium sulfate, filtered and concentrated in vacuo to give crude 5-(2-nitro-4-chlorophenyl)oxazole.

reactant | 2-nitro-4-chlorobenzaldehyde | 11.8 mmol, 2.2 g | [N+](=O)([O-])C1=C(C=O)C=CC(=C1)Cl | C7H4ClNO3
reactant | p-toluenesulfonyl-methylisocyanide | 14.2 mmol, 2.8 g | C1(=CC=C(C=C1)S(=O)(=O)C[N+]#[C-])C | C9H9NO2S
reactant | potassium carbonate | 59 mmol, 8.2 g | C([O-])([O-])=O.[K+].[K+]
solvent | methanol | 50 mL | CO | CH4O
product | 5-(2-nitro-4-chlorophenyl)oxazole | [N+](=O)([O-])C1=C(C=CC(=C1)Cl)C1=CN=CO1 | C9H5ClN2O3
